US04138488
A. 4-(1,1-Diphenylpropyl)-Pyridine
Dissolve 2.5 g. of sodium in 500 ml. of liquid ammonia in the presence of a catalytic amount of ferric nitrate. Add dropwise to the resulting suspension over a 20 minute interval a solution containing 24.5 g. of 4-diphenylmethyl pyridine in 600 ml. of ether. Stir the resulting dark red mixture for an additional 20 minutes, then add 13 g. of ethyl bromide dropwise. Add an additional 500 ml. of ammonia, stir overnight, then add 300 ml. of ether followed by 150 ml. of water. Separate the solvent layers. Wash the ether layer with water until neutral, dry and remove the solvent under reduced pressure to a residue. Distill the residue at 192°-200° C./1.6 to 2 mm. and obtain thereby 14.7 g. of the title compound as an orange colored oil.

reactant | sodium | [Na] | Na
reactant | ammonia | N | H3N
reactant | 4-diphenylmethyl pyridine | C1(=CC=CC=C1)C(C1=CC=NC=C1)C1=CC=CC=C1 | C18H15N
reactant | ethyl bromide | C(C)Br | C2H5Br
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 4-(1,1-Diphenylpropyl)-Pyridine | C1(=CC=CC=C1)C(CC)(C1=CC=CC=C1)C1=CC=NC=C1 | C20H19N
